### PR TITLE
feat: strengthen finIdxOf? lemmas

### PR DESCRIPTION
**Pull request by eric-wieser**
This PR makes the LHS of `isSome_finIdxOf?` and `isNone_finIdxOf?` more general.

### CODE REVIEW

**Comment by eric-wieser** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 666fb5c571baa93ec7edf1a7f66d622837632ccb --onto 9b9dd8546a123d746580649b239f26c26d370d20`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-08 01:05:45)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 666fb5c571baa93ec7edf1a7f66d622837632ccb --onto 8422d936cff3b609bd2a1396e82356c82c383386`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-11 07:16:39)

File: src/Init/Data/List/Find.lean [hunk 1]
```diff
@@ -1097,17 +1097,18 @@ theorem finIdxOf?_cons [BEq α] {a : α} {xs : List α} :
...
   | cons x xs ih =>
     simp only [finIdxOf?_cons]
-    split <;> simp_all [@eq_comm _ x a]
+    split <;> simp_all [BEq.comm]
 
-theorem isNone_finIdxOf? [BEq α] [LawfulBEq α] {l : List α} {a : α} :
-    (l.finIdxOf? a).isNone = ¬ a ∈ l := by
-  simp
+@[simp]
+theorem isNone_finIdxOf?' [BEq α] [PartialEquivBEq α] {l : List α} {a : α} :
```
Comment (TwoFX) [inline src/Init/Data/List/Find.lean]: Why did you rename this lemma from `isNone_finIdxOf?` to `isNone_finIdxOf?'`?

Comment (eric-wieser) [reply src/Init/Data/List/Find.lean]:
```suggestion
theorem isNone_finIdxOf? [BEq α] [PartialEquivBEq α] {l : List α} {a : α} :
```

**Review by TwoFX — APPROVED** [review]
Thanks!
